US06066740
1-tert-Butoxycarbonyl-4-methyl-5-amino-7-fluorobenzimidazole (1 g) (prepared as described in U.S. Pat. No. 5,478,858 issued to Cupps and Bogdan, Dec. 26, 1995, incorporated herein by reference) and 6N HCl (10 mL) are combined and heated to reflux while stirring. After completion of the t-BOC group deprotection, the reaction mixture is concentrated under reduced pressure and dried to furnish 4methyl-5-amino-7-fluorobenzimidazole hydrochloride.

reactant | 1-tert-Butoxycarbonyl-4-methyl-5-amino-7-fluorobenzimidazole | 1 g | C(C)(C)(C)OC(=O)N1C=NC2=C1C(=CC(=C2C)N)F | C13H16FN3O2
reactant | HCl | 6N, 10 mL | Cl | ClH
product | 4methyl-5-amino-7-fluorobenzimidazole hydrochloride | Cl.CC1=C(C=C(C=2N=CNC21)F)N | InChI=1S/C8H8FN3.ClH/c1-4-6(10)2-5(9)8-7(4)11-3-12-8;/h2-3H,10H2,1H3,(H,11,12);1H
